US03971791
Upon heating a solution of 12.2 g of (2-thenylidene)acetoacetic acid ethyl ester and 6.5 g of amidinoacetic acid ethyl ester in 100 ml of ethanol for 4 hours, 2-amino-6-methyl-4-(2-thenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 170°C (ethanol) is obtained. Yield: 73% of theory.

reactant | (2-thenylidene)acetoacetic acid ethyl ester | 12.2 g | C(C)OC(CC(=O)C=CC1=CC=CS1)=O | C11H12O3S
reactant | amidinoacetic acid ethyl ester | 6.5 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-6-methyl-4-(2-thenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 73% | C(C)OC(=O)C1=C(NC(=C(C1CC1=CC=CS1)C(=O)OCC)C)N | C17H22N2O4S
